US06900200B2
Step A. 4-Iodo-2-methoxybenzoic acid methyl ester
4-Amino-2-methoxybenzoic acid methyl ester (3.0 g, 16.6 mmol) was suspended in water (40 mL) and concentrated sulfuric acid (10 mL). The suspension was cooled in an ice/salt water bath, and an aqueous solution (10 mL) of sodium nitrite (1.26 g, 18.3 mmol) was added dropwise so that the temperature remained close to 0° C. After the addition, a homogeneous, yellow-green solution was obtained. An aqueous solution (60 mL) of potassium iodide (3.02 g, 18.2 mmol) and iodine (2.31 g, 9.1 mmol) was then added dropwise, and the reaction stirred for an additional 1 hour. The reaction mixture was then extracted with ethyl acetate, the organic extracts were combined and washed with 1 N sodium thiosulfate, 1 N sodium hydroxide and brine. After drying over anhydrous sodium sulfate the solution was filtered and concentrated in vacuo to give 2.7 g of the title product as an orange oil which was used in the next step.

reactant | 4-Amino-2-methoxybenzoic acid methyl ester | 16.6 mmol, 3.0 g | COC(C1=C(C=C(C=C1)N)OC)=O | C9H11NO3
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 18.3 mmol, 10 mL, 1.26 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 18.2 mmol, 60 mL, 3.02 g | [I-].[K+]
reactant | iodine | 9.1 mmol, 2.31 g | II | I2
solvent | water | 40 mL | O | H2O
product | 4-Iodo-2-methoxybenzoic acid methyl ester | 2.7 g | COC(C1=C(C=C(C=C1)I)OC)=O | C9H9IO3
